US06451814B1
[4-(4-{2-[2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidin-1-yl]-(5-methoxy-1H-indol-2-yl)-methanone
{4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxypropyl]amino}ethyl)anilino]-1-piperidinyl}(5-methoxy-1H-indol-2-yl)methanone (0.128 g, 0.161 mmol) was reacted according to Procedure H (eluant: 5:1 chloroform-methanol) to give the title compound (0.026 g, 0.046 mmol).

reactant | {4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxypropyl]amino}ethyl)anilino]-1-piperidinyl}(5-methoxy-1H-indol-2-yl)methanone | 0.161 mmol, 0.128 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C(OC[C@H](CNCCC2=CC=C(NC3CCN(CC3)C(=O)C=3NC4=CC=C(C=C4C3)OC)C=C2)O)C=C1 | C48H56N4O5Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | [4-(4-{2-[2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidin-1-yl]-(5-methoxy-1H-indol-2-yl)-methanone | 0.046 mmol, 0.026 g | OC(CNCCC1=CC=C(C=C1)NC1CCN(CC1)C(=O)C=1NC2=CC=C(C=C2C1)OC)COC1=CC=C(C=C1)O | C32H38N4O5
